US06903126B2
c) 6-[[2-(Morpholin-4-yl)-1-phenyl-1H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester
657 mg of 6-[[2-chloro-1-phenyl-1H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester was dissolved in 13 ml of morpholine, and the mixture was stirred for 6 hours at 120° C. It was concentrated by evaporation to a very large extent in a vacuum, mixed with water, extracted with ethyl acetate, the organic phase was dried on sodium sulfate and concentrated by evaporation in a vacuum. The residue was purified by column chromatography on silica gel. 271 mg was obtained.

reactant | 6-[[2-chloro-1-phenyl-1H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester | 657 mg | COC(CCCCCOC=1C=CC2=C(N(C(=N2)Cl)C2=CC=CC=C2)C1)=O | C20H21ClN2O3
reactant | morpholine | 13 ml | N1CCOCC1 | C4H9NO
product | 6-[[2-(Morpholin-4-yl)-1-phenyl-1H-benzimidazol-6-yl]oxy]hexanoic acid methyl ester | COC(CCCCCOC=1C=CC2=C(N(C(=N2)N2CCOCC2)C2=CC=CC=C2)C1)=O | C24H29N3O4
